US07129238B2
A suspension of (RS)-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-2-(2-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide (240 mg) in ethanol (9 ml) and acetic acid (0.38 ml) was hydrogenated for 7.5 h using 10% Pd/C as a catalyst. The reaction mixture was filtered and the solvent was evaporated. The product was purified by chromatography (silica gel, CH2Cl2=>CH2Cl2/MeOH 4:1) to give (RS)-N-(4-carbamimidoyl-benzyl)-2-(2-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide actetate (12 mg) as an off-white, amorphous solid. MS 344.2 ([M+H]+)

reactant | (RS)-N-[4-(N-hydroxycarbamimidoyl)-benzyl]-2-(2-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide | 240 mg | ONC(=N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)OC)O)=O)C=C1 | C18H21N3O5
solvent | ethanol | 9 ml | C(C)O | C2H6O
solvent | acetic acid | 0.38 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | (RS)-N-(4-carbamimidoyl-benzyl)-2-(2-hydroxy-4-methoxy-phenyl)-2-methoxy-acetamide | C(N)(=N)C1=CC=C(CNC(C(OC)C2=C(C=C(C=C2)OC)O)=O)C=C1 | C18H21N3O4
